US09382188B2
B) 3-(3-ethoxy-3-oxopropyl)benzoic acid
To a solution of (E)-3-(3-ethoxy-3-oxoprop-1-en-1-yl)benzoic acid (8.60 g) in ethanol (500 mL) was added 10% palladium-activated carbon (4.10 g) and, under a hydrogen atmosphere, the mixture was stirred at room temperature for 3 hr. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure to give the title compound (8.70 g) as a white amorphous solid.

reactant | (E)-3-(3-ethoxy-3-oxoprop-1-en-1-yl)benzoic acid | 8.60 g | C(C)OC(/C=C/C=1C=C(C(=O)O)C=CC1)=O | C12H12O4
solvent | ethanol | 500 mL | C(C)O | C2H6O
catalyst | palladium-activated carbon | 4.10 g | [Pd] | Pd
product | 3-(3-ethoxy-3-oxopropyl)benzoic acid | 8.70 g | C(C)OC(CCC=1C=C(C(=O)O)C=CC1)=O | C12H14O4
